US04835157
3-[4-[4-(4-Fluorobenzoyl)piperidin-1-yl]butyl]thieno[3,4-d]pyrimidine-2,4-dione
The title compound was prepared by the procedure of Example 10 using N-(4-bromobutyl)-N'-(4-carbomethoxythien-3-yl)urea (6.92 g, 21 mmol) and 4-(4-fluorobenzoyl)piperidine hydrochloride (10.16 g, 42 mmol). The urea was prepared by reacting methyl 4-aminothiophene-3-carboxylate with 4-bromobutylisocyanate in toluene at room temperature for 12 hours to produce the urea as a tan solid, mp 85°-86° C. There was obtained 3.62 g (40.8% yield) of the title compound as a brown solid. This material was recrystallized from CH2Cl2 /ether, mp 190°-192° C.

reactant | N-(4-bromobutyl)-N'-(4-carbomethoxythien-3-yl)urea | 21 mmol, 6.92 g | BrCCCCNC(=O)NC1=CSC=C1C(=O)OC | C11H15BrN2O3S
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 42 mmol, 10.16 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | methyl 4-aminothiophene-3-carboxylate | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
reactant | 4-bromobutylisocyanate | BrCCCCN=C=O | C5H8BrNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[4-(4-Fluorobenzoyl)piperidin-1-yl]butyl]thieno[3,4-d]pyrimidine-2,4-dione | FC1=CC=C(C(=O)C2CCN(CC2)CCCCN2C(NC=3C(C2=O)=CSC3)=O)C=C1 | C22H24FN3O3S
